Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
amoxicillin / iron
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:45PM   PLT COUNT-244
___ 10:45PM   NEUTS-55.7 ___ MONOS-10.8 EOS-0.7* 
BASOS-0.9 IM ___ AbsNeut-2.99 AbsLymp-1.70 AbsMono-0.58 
AbsEos-0.04 AbsBaso-0.05
___ 10:45PM   WBC-5.4 RBC-4.19 HGB-13.4 HCT-41.2 MCV-98 
MCH-32.0 MCHC-32.5 RDW-12.4 RDWSD-44.2
___ 10:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:45PM   ALBUMIN-4.8 CALCIUM-9.6 PHOSPHATE-3.0 
MAGNESIUM-2.1
___ 10:45PM   LIPASE-31
___ 10:45PM   ALT(SGPT)-20 AST(SGOT)-26 ALK PHOS-48 TOT 
BILI-0.4
___ 10:45PM   GLUCOSE-128* UREA N-15 CREAT-1.1 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-100 TOTAL CO2-23 ANION GAP-14
___ 03:17AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10* BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.5 
LEUK-NEG
___ 03:17AM URINE  COLOR-Straw APPEAR-CLEAR SP ___
___ 03:17AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:17AM URINE  UCG-NEGATIVE
___ 03:17AM URINE  HOURS-RANDOM

PERTINENT LABS:
===============
___ 05:45AM BLOOD VitB12-956*
___ 05:45AM BLOOD TSH-0.99
___ 05:45AM BLOOD Free T4-1.3
___ 05:45AM BLOOD VITAMIN B1-WHOLE BLOOD-PND

MICRO:
======
___ 3:17 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
========
none

DISCHARGE LABS:
===============
no labs on day of discharge

DISCHARGE PHYSICAL EXAM:
========================
VITALS: ___ 1136 Temp: 98.1 PO BP: 107/68 R lying HR: 68 
RR: 18 O2
sat: 100% O2 delivery: RA  
GENERAL:  NAD, sitting up in chair, smiling, moving head around
EYES: Sclera anicteric and without injection. 
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender.
EXTREMITIES: Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: Speech slow but markedly improved today and speaks 
in simple
sentences. Sitting in a chair and able to move all extremities, 
follow commands such as moving fingers/toes on command and 
sticking thumb up.
PSYCH: Alert and awake, pleasant, smiling 

 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY:
=======================
___ female with history of disordered eating, PTSD, GAD 
with panic disorder, depression and functional neurological 
disorder presenting from a therapy session with weakness, 
abnormal movement, and aphasia concerning for an acute 
functional neurological episode. She was evaluated by neurology 
and psychology who felt this was consistent with functional 
neurological disorder, similar to her prior presentation. She 
began working with ___ and OT and had made great improvement at 
time of discharge to acute rehab. 

TRANSITIONAL ISSUES:
====================
For rehab:
[] Please continue aggressive ___ and OT for further improvement 
in functional status. 
[] On discharge, please ensure patient has follow up with her 
PCP and her therapist. 
[] Patient was having some intermittent nausea as appetite 
improved. Please continue Zofran TID prn. QTc was 441 on EKG on 
___. If continuing Zofran use for >1 week, please recheck QTc 
on ___ and d/c medication if prolonged.
[] Patient has a history of disordered and restrictive eating. 
She does well eating with encouragement and did not show any 
evidence of eating disorder while inpatient. Please continue 
ensure supplements TID with meals. 

For PCP/therapist:
[] Please refer patient to psychiatrist for further titration of 
psychiatric medications, given report of previous sensitivity to 
medications and concern for possible bipolar disorder diagnosis. 

[] Please follow up pending thiamine level. 

ACUTE ISSUES:
=============
# GAD/Panic disorder
# Depression
# PTSD
# Functional neurological disorder
Patient presented from a therapy session where she had acute 
onset of weakness, abnormal movement and aphasia in the setting 
of potential trigger of seeing shadows outside the door. Per her 
therapist, over the past several weeks she has been increasingly 
more hypervigilant and stressed about going home for the 
holidays to see her mom, which is a major trigger for her PTSD. 
Her therapist also reports a history of sexual/physical/verbal 
abuse but patient is very guarded about it and will not discuss 
it. On presentation to the ___ had significant and acute 
functional neurological symptoms, including weakness, abnormal 
movement, and aphasia, resulting in impaired functioning. There 
was concern for catatonia and she improved after 1 mg IV ativan 
in the ER. She endorsed significant anxiety, but denied SI and, 
per Psychiatry, she did not meet ___ criteria. She had a 
similar episode in ___ after IV iron infusion and was 
admitted to the neurology service, where she was diagnosed with 
functional neurological disorder and she improved with ___ and 
rehab. She was also started on nortriptyline 10 mg QHS at that 
time. Per her therapist, she is sensitive to medications and 
when she was on SSRIs she became manic, although she has not 
formally been diagnosed with bipolar disorder. Once admitted, 
she was re-evaluated by neuro and psychiatry who determined this 
was not consistent with catatonia and instead was likely 
functional neurological disorder. She was recommended for acute 
rehab to continue aggressive ___. She was continued on home 
nortriptyline 10mg qhs.

#Disordered eating
#Restrictive eating
#Over-exercising 
She has a history of restrictive eating and over-exercising and 
in the past she has had bradycardia and electrolyte 
abnormalities. Per her therapist, her disordered eating has 
become much worse over the past few months in the setting of 
traveling a lot for work. She started an intensive outpatient 
program at ___ Eating ___ on ___. Per her 
therapist, she restricts her calories to about 1,000 or less a 
day and over-exercises and is good at hiding it from people. 
From review of OMR, her BMI seems to be normal (between ___ 
and she currently does not have any electrolyte abnormalities 
but she has been intermittently bradycardic with HR in the ___. 
Her appetite improved as her neurological symptoms began 
resolving. Per nutrition evaluation, no need for eating disorder 
protocol while inpatient. She received Ensure supplements. Heart 
rates were stable, bradycardic in ___. Electrolytes were 
monitored. TSH, T4 and B12 levels were all normal. She received 
thiamine supplementation. She received Zofran PRN for nausea 
(QTc 441).

CORE MEASURES
=============
#CODE: full code 
#CONTACT: Per patient's request, do not contact her mother
(___)
 -Emergency Contacts: ___ (___) ___ and ___ (Uncle) ___ 
 -Therapist: ___, ___ ___ and coordinates
all of her care and available for questions/calls at anytime

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nortriptyline 10 mg PO QHS 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY  
2.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
3.  Thiamine 100 mg PO DAILY  
4.  Nortriptyline 10 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
#Functional neurological disorder
#GAD/depression
#PTSD
#H/o disordered eating 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
-You came to the hospital because you acutely had trouble moving 
and speaking. 

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
-You were seen by the neurologists who diagnosed you with 
functional neurological disorder. 
-You worked with physical and occupational therapists.
-Your symptoms began to improve.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  
- Please continue to work with your physical and occupational 
therapists.

We wish you all the best!

Sincerely, 
 
Your ___ Care Team  
 
Followup Instructions:
___